US07470705B2
Step 5. Preparation of (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Cool to 0° C. a suspension of (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzylamino)-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (0.210 g, 0.415 mmol) and pyridine (0.203 mL, 2.52 mmol) in dichloromethane (3 mL) under nitrogen. Add acetic anhydride (0.117 mL, 1. 247 mmol) dropwise. After the addition is complete, remove the cooling bath and warm the reaction to room temperature with stirring for 12 h. Dilute the mixture with dichloromethane (25 mL) and wash with saturated aqueous sodium bicarbonate (25 mL). Dry the organic layer over sodium sulfate, filter, and remove the solvent under reduced pressure. Purify the residue using silica gel chromatography, eluting with hexanes/ethyl acetate (gradient eluent, 0-30% ethyl acetate in hexane), to afford the title compound (0.196 g, 88%). MS (ES+): 548 (M+H).

reactant | (+/−)-cis-4-(3,5-bis-trifluoromethyl-benzylamino)-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.415 mmol, 0.210 g | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C23H25F6N3O3
reactant | pyridine | 2.52 mmol, 0.203 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 247 mmol, 0.117 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.196 g, 88% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C | C25H27F6N3O4
